US04301286
To 1.2 g of 2-amino-4,6-dimethylpyrimidine in 50 ml of tetrahydrofuran is added 6.85 ml of 1.6 molar n-butyl lithium in hexane at 0°. The mixture is stirred for 15 minutes. To this solution is added dropwise, a solution of 2.1 g of methyl N-(2-methylphenylsulfonyl)carbonimidochloridate in 5 ml of tetrahydrofuran at 0°-10°. This reaction mixture is stirred for 30 minutes at 0°-10° and 30 minutes at ambient temperature. The reaction mixture is filtered and the solvent is stripped from the filtrate under reduced pressure to yield a crude product. The crude product is further purified via dry column chromatography on silica gel with ethyl acetate as the eluent. Pure N'-(2-methylphenylsulfonyl)-N-(4,6-dimethylpyrimidin-2-yl)carbamimidic acid, methyl ester is obtained.

reactant | 2-amino-4,6-dimethylpyrimidine | 1.2 g | NC1=NC(=CC(=N1)C)C | C6H9N3
reactant | n-butyl lithium | 1.6 molar, 6.85 ml | C(CCC)[Li]
reactant | methyl N-(2-methylphenylsulfonyl)carbonimidochloridate | 2.1 g | CC1=C(C=CC=C1)S(=O)(=O)N=C(OC)Cl | C9H10ClNO3S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N'-(2-methylphenylsulfonyl)-N-(4,6-dimethylpyrimidin-2-yl)carbamimidic acid, methyl ester | CC1=C(C=CC=C1)S(=O)(=O)N=C(NC1=NC(=CC(=N1)C)C)OC | C15H18N4O3S
